US08138178B2
To a solution of 5-bromo-1-(2-hydroxy-2-methylpropyl)pyridin-2(1H)-one (20 mg, 81.3 mmol) in DME (6 mL) was added Pd(PPh3)4 (10 mg) under nitrogen. The mixture was stirred for 1 h at rt, and a solution of (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (38.95 mg, 81.3 mmol) in EtOH (2 mL) and satd aq NaHCO3 (2 mL) were added. The resulting mixture was stirred at 100° C. for 2 h, quenched with water, and extracted with EtOAc. The combined organic layer was dried over anhydrous Na2SO4 and concentrated to give the crude product, which was purified by preparative TLC and preparative HPLC to afford (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-(2-hydroxy-2-methylpropyl)-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (6.5 mg, 15.5%). LC-MS Method 2 tR=0.99 min, m/z=519; 1H NMR (CDCl3): δ 7.60-7.57 (d, 1H), 7.43 (s, 1H), 7.36-7.26 (m, 5H), 7.15 (d, 2H), 7.01 (d, 2H), 6.70 (d, 1H), 2.85 (m, 1H), 5.69-5.66 (m, 1H), 4.13-4.09 (s, 2H), 4.05-3.98 (s, 1H), 2.89-2.86 (m, 1H), 2.44-2.36 (m, 1H), 2.28-2.16 (m, 5H), 1.58-1.53 (d, 3H), 1.33-1.30 (s, 6H), 1.19 (s, 3H), 1.12 (s, 3H).

reactant | 5-bromo-1-(2-hydroxy-2-methylpropyl)pyridin-2(1H)-one | 81.3 mmol, 20 mg | BrC=1C=CC(N(C1)CC(C)(C)O)=O | C9H12BrNO2
reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 81.3 mmol, 38.95 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | EtOH | 2 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-(2-hydroxy-2-methylpropyl)-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 6.5 mg, 15.5% | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)CC(C)(C)O)C1=CC=CC=C1)(C)C | C31H38N2O5
